US08236976B2
Preparation of (S)-4-Methyl-hept-4-en-3-ol
The product was prepared by General procedure L using 1.0 mL (2.0 mmol, 2.0 M in hexanes) Et2Zn, 9.6 mg (0.04 mmol) (−)-MIB, and 114 μL (1.0 mmol) 2-methyl-2-pentenal. The crude product was purified by column chromatography on silica (10% ethyl acetate in hexanes) to afford the title compound as a colorless oil in 73% yield (93 mg, 0.73 mmol). [α]D20=−5.8 (c=0.73, CHCl3, 95% ee); 1H NMR (CDCl3, 500 MHz) δ 0.77 (t, 3H, J=7.4 Hz), 0.89 (t, 3H, J=7.5 Hz), 1.45-1.49 (m, 2H), 1.51 (s, 3H), 1.61 (br s, 1H), 1.96 (q, 2H, J=7.4 Hz), 3.81 (t, 1H, J=6.7 Hz), and 5.29 (t, 1H, J=6.9 Hz) ppm; 13C {1H} NMR (CDCl3, 125 MHz) δ.10.0, 10.8, 14.0, 20.7, 27.6, 79.4, 128.6, and 136.1 ppm; IR (neat) 3360, 2962, 2932, 2875, 2348, 1722, 1670, 1461, 1376, 1335, 1308, 1261, 1097, 1054, and 1008 cm−1; HRMS-CI m/z 128.1206 [M+; calcd for C8H16O: 128.1201].

reactant | Et2Zn | 2.0 mmol, 2.0 M, 1.0 mL | [Zn](CC)CC
reactant | 2-methyl-2-pentenal | 1.0 mmol, 114 μL | CC(C=O)=CCC | C6H10O
product | (S)-4-Methyl-hept-4-en-3-ol | 73% yield | CC([C@H](CC)O)=CCC | C8H16O
